US07893093B2
Methyl 2(S)-amino-4-(pyridin-2-ylsulfanyl)butyrate (0.610 g, 2.33 mmol), 2,2,2,4′-tetrafluoroacetophenone (0.393 g, 2.05 mmol), and DIPEA (1.24 g, 9.63 mmol) were combined in CH2Cl2 (10 mL). TiCl4 (1.90 mmol in CH2Cl2) was added dropwise over a 5 min period. The resulting dark solution was stirred for 3 h at which time sodium cyanoborohydride (6.35 mmol) in methanol (5 mL) was added in one portion, and the brown solution stirred for an additional 45 min. The reaction mixture was diluted with ethyl acetate, poured onto a bed of MgSO4 and filtered. Concentration and purification by flash chromatography (50% ethyl acetate/hexanes) afforded 4-(pyridin-2-ylsulfanyl)-2(S)-[2,2,2-trifluoro-1-(4-fluorophenyl)ethylamino]-butyric acid methyl ester as a mixture of diastereomers.

reactant | Methyl 2(S)-amino-4-(pyridin-2-ylsulfanyl)butyrate | 2.33 mmol, 0.610 g | N[C@H](C(=O)OC)CCSC1=NC=CC=C1 | C10H14N2O2S
reactant | 2,2,2,4′-tetrafluoroacetophenone | 2.05 mmol, 0.393 g | FC(C(=O)C1=CC=C(C=C1)F)(F)F | C8H4F4O
reactant | DIPEA | 9.63 mmol, 1.24 g | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium cyanoborohydride | 6.35 mmol | C(#N)[BH3-].[Na+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | TiCl4 | 1.90 mmol | Cl[Ti](Cl)(Cl)Cl
product | 4-(pyridin-2-ylsulfanyl)-2(S)-[2,2,2-trifluoro-1-(4-fluorophenyl)ethylamino]-butyric acid methyl ester | COC([C@H](CCSC1=NC=CC=C1)NC(C(F)(F)F)C1=CC=C(C=C1)F)=O | C18H18F4N2O2S
